US04065471
Following the procedure given in Example 1B, 7.8 g. (0.07 mole) of diethylpropargylamine, 3.8 g. of paraformaldehyde, 5.7 g. (0.08 mole) of pyrrolidine, and a trace of cuprous chloride in 80 ml. of dioxane was refluxed for 4 hours and allowed to stand overnight. After distillation and redistillation, the product, 1-[4-(diethylamino)-2-butynyl]pyrrolidine was obtained as a clear oil boiling at 68.0° C. at 0.05 mm.; ND25 = 1.4770.

reactant | diethylpropargylamine | 0.07 mole | C(C)N(CC#C)CC | C7H13N
reactant | paraformaldehyde | C=O | CH2O
reactant | pyrrolidine | 0.08 mole | N1CCCC1 | C4H9N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(diethylamino)-2-butynyl]pyrrolidine | C(C)N(CC#CCN1CCCC1)CC | C12H22N2
